US08049015B2
3-[(N-Benzyl-N-cyclopropanecarbonyl-amino)-methyl]-4-bromo-benzoic acid and methylamine (2M in THF) were reacted as described in Example 5, Step 6 to provide 3-[(N-benzyl-N-cyclopropanecarbonyl-amino)-methyl]-4-bromo-N-methyl-benzamide.

reactant | 3-[(N-Benzyl-N-cyclopropanecarbonyl-amino)-methyl]-4-bromo-benzoic acid | C(C1=CC=CC=C1)N(C(=O)C1CC1)CC=1C=C(C(=O)O)C=CC1Br | C19H18BrNO3
reactant | methylamine | 2M | CN | CH5N
product | 3-[(N-benzyl-N-cyclopropanecarbonyl-amino)-methyl]-4-bromo-N-methyl-benzamide | C(C1=CC=CC=C1)N(C(=O)C1CC1)CC=1C=C(C(=O)NC)C=CC1Br | C20H21BrN2O2
